US08466167B2
To a stirred solution of 5-((triethylsilyl)ethynyl)-1H-indole (from the previous step) in THF (0.2 M) cooled at 0° C. was treated with a solution (0.5 eq.) of tetrabutylammonium fluoride in a dropwise fashion. The reaction mixture turned black and was continued to stir for 30 minutes before warming up to rt. TLC showed full conversion. The reaction was quenched with water and was extracted with diethylether. Combined organic layers were dried over anhydrous Na2SO4 and concentrated using rotary evaporator with minimum heating. Chromatography (silica gel, diethylether) afforded the product 5-ethynyl-1H-indole as colorless oil.

reactant | 5-((triethylsilyl)ethynyl)-1H-indole | C(C)[Si](CC)(CC)C#CC=1C=C2C=CNC2=CC1 | C16H21NSi
reactant | tetrabutylammonium fluoride | 0.5 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | 5-ethynyl-1H-indole | C(#C)C=1C=C2C=CNC2=CC1 | C10H7N
